US09371314B2
The reaction mixture of dimethyl (6-amino-5-(4-aminophenyl)pyridin-3-yl)phosphonate (30 mg, 0.10 mmol, 1 eq) and 1-isocyanato-3-(trifluoromethyl)benzene (0.018 mL, 1.2 eq) in anhydrous DMF (0.5 mL) under anhydrous nitrogen atmosphere was stirred at room temperature for an hour. It was then diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper clear solution was decanted, concentrated, and the solid residue was subject to a gradient column chromatography (EtOAc-Hex 2:1 to MeOH-EtOAc 1:20) to yield dimethyl (6-amino-5-(4-(3-(3-(trifluoromethyl)phenyl)ureido)phenyl)pyridin-3-yl)phosphonate as a white solid in amount of 41 mg.

reactant | dimethyl (6-amino-5-(4-aminophenyl)pyridin-3-yl)phosphonate | 0.10 mmol, 30 mg, 1 eq | NC1=C(C=C(C=N1)P(OC)(OC)=O)C1=CC=C(C=C1)N | C13H16N3O3P
reactant | 1-isocyanato-3-(trifluoromethyl)benzene | 0.018 mL, 1.2 eq | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | dimethyl (6-amino-5-(4-(3-(3-(trifluoromethyl)phenyl)ureido)phenyl)pyridin-3-yl)phosphonate | NC1=C(C=C(C=N1)P(OC)(OC)=O)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C21H20F3N4O4P
